### PR TITLE
Added decider for reversible FRACTRAN halting

### PR DESCRIPTION
**Pull request by mrhaandi**
Based on code in the master's thesis by @archbung.
Small changes to the original code include:
- compatibility with `Set Default Goal Selector "!"`
- compatibility with `Set Mangle Names`
- explicit boolean decision procedure `decide : { P : list (nat * nat) | fractran_reversible P } * nat -> bool`, which is stronger than `exists f, ...`
- top-level `FRACTRAN_dec.v` result
- included @DmxLarchey as author because of remarks and ideas in an early private communication

Also fixed a copy-paste typo "autor", which is why many files are touched.

### CODE REVIEW

**Comment by yforster** [comment]
In case you think that would be nice to have, there is https://docs.github.com/en/pull-requests/committing-changes-to-your-project/creating-and-editing-commits/creating-a-commit-with-multiple-authors, which allows adding other people to a commit so GitHub keeps proper track of contributors.

**Comment by DmxLarchey** [comment]
The new code is mostly orthogonal to the existing structure which is good. I am ok with the switch `Autor:` -> `Author(s):` but it has nothing to do with `FRACTRAN`. I don't ask to separate the PR in two halves but next time, I think it would be better to isolate such cosmetic changes in a separate PR which is easy and quick to review.

I will have a deeper look into the decision procedure hopefully soon.

**Comment by mrhaandi** [comment]
> I am ok with the switch Autor: -> Author(s): but it has nothing to do with FRACTRAN. I don't ask to separate the PR in two halves but next time.

You are right, I'll just split the PR.

> which allows adding other people to a commit so GitHub keeps proper track of contributors.

This is a good idea, I did not know that. I'll change the commit message.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v [hunk 1]
```diff
@@ -0,0 +1,292 @@
...
+
+(* necessary facts on prime factorization *)
+Module Prime_factors.
+
+#[local] Notation lprod := (fold_right mult 1).
+
+Lemma prime_divides_lt {lc ld} :
+  ~ (divides (lprod ld) (lprod lc)) ->
+  Forall prime lc -> Forall prime ld ->
+  exists (p : nat), prime p /\ count_occ Nat.eq_dec lc p < count_occ Nat.eq_dec ld p.
```
Comment (DmxLarchey) [inline theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:17]: I guess this could be converted to `{ p : nat | ... }` instead of `exists`

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v [hunk 2]
```diff
@@ -0,0 +1,292 @@
...
+Qed.
+
+Definition count_pow (p n : nat) : nat :=
+  let (l, _) := (@prime_decomp (S n) (Nat.neq_succ_0 n))
+    in count_occ Nat.eq_dec l p.
+
+Lemma prime_divides_lt' c d (Hc : c <> 0) (Hd : d <> 0) :
+  ~ (divides d c) ->
+  exists p,
+    (forall x y (Hx : x <> 0) (Hy : y <> 0),
```
Comment (DmxLarchey) [inline theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:50]: Why not formulate this as `(1+x)*c=(1+y)*d` and avoid `Hx`, `Hy` and `pred` altogether ?

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v [hunk 3]
```diff
@@ -0,0 +1,292 @@
...
+Import Prime_factors.
+
+Module Argument.
+
+Lemma fractran_nstop_zero_num_1 d l s : ~ (0,d) :: l /F/ s ↓.
+Proof.
+  destruct d as [|d]; simpl; intros [y [_ Hs]]; apply (Hs 0); now constructor.
+Qed.
+
+Lemma fractran_nstop_zero_num_2 a b d l x : ~ (S a, b) :: (0, d) :: l /F/ x ↓.
```
Comment (DmxLarchey) [inline theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:103]: This could follow directly from if `l` never terminates then `(x,y) :: l` never terminates.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v [hunk 4]
```diff
@@ -0,0 +1,292 @@
...
+  ((l2 /F/ n ↓) + (not (l2 /F/ n ↓))).
+Proof.
+  intros H [|Hn]; [left|right].
+  - eapply fractran_step_iff_halt; eassumption.
+  - intros ?. apply Hn. eapply fractran_step_iff_halt; [|eassumption].
+    firstorder easy.
+Qed.
+
+(* in a reversible FRACTRAN program the second fraction is shadowed by the first *)
+Lemma fractran_reversible_shadow {a b c d P x y} : x <> 0 -> y <> 0 ->
```
Comment (DmxLarchey) [inline theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:177]: Perhaps use this to state (and prove) that if '(x,y) :: l' is a reversible fractran program then it is step-equivalent to '(x,y) :: nil'.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v [hunk 5]
```diff
@@ -0,0 +1,292 @@
...
+    apply fractran_rt_no_zero_den in Hn.
+    - apply (Hy 0). apply in_fractran_0. lia.
+    - now repeat constructor. }
+  left. now apply fractran_stop_ndiv_singleton.
+Qed.
+
+(* informative decision statement for reversible FRACTRAN halting *)
+Theorem decision (P : list (nat * nat)) (n: nat) : fractran_reversible P -> (P /F/ n ↓) + (not (P /F/ n ↓)).
+Proof.
+  induction P as [P IH] using (induction_ltof1 _ (fun P => length P)); unfold ltof in IH.
```
Comment (DmxLarchey) [inline theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:234]: I do think case analysis is enough on `P`, ie induction is not needed. Non-empty reversible fractran programs are step-equivalent to their single first fraction alone.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 1 above)
Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:17]: `in_split` is used for the proof, which is propositional. So the `{ p : nat | ... }` is not immediate (and not necessary for the consequent proofs).

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 2 above)
Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:50]: Note that most of the code is written by a student. I merely made it so it does not immediately break on future Coq versions. I'd implement your simplification.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 3 above)
Comment (DmxLarchey) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:103]: Btw, a fractran programs never terminates iff one of its fractions is an integer.

Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:103]: I added `Lemma fractran_nstop_cons a b l s : (forall t, ~ l /F/ t ↓) -> ~ (a,b) :: l /F/ s ↓.` as a less ad-hoc lemma.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 5 above)
Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:234]: Isn't induction necessary to prove the step-equivalence to the `(x,y) :: nil` form?
> Perhaps use this to state (and prove) that if (x,y) :: l is a reversible fractran program then it is step-equivalent to (x,y) :: nil.

This is the (inlined) argument of the decision procedure, for which induction is used.
Specifically, that in a reversible fractran program the first fraction shadows all other fractions.

Comment (DmxLarchey) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:234]: > Isn't induction necessary to prove the step-equivalence to the (x,y) :: nil form?

Ok yes I think you are right. But indeed, that statement that _in a reversible fractran program the first fraction shadows all other fractions_ is not explicitly stated which blurs the argument for decision a bit.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 4 above)
Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:177]: I now pulled out the following statement from the decision procedure for more clarity.
```
Lemma fractran_reversible_shorten {a b c d P s t} :
  fractran_reversible ((S a, b) :: (S c, d) :: P) ->
  ((S a, b) :: P /F/ s ≻ t) <-> ((S a, b) :: (S c, d) :: P /F/ s ≻ t).
```
If I were to consider arbitrary `(x,y) :: l` (instead of strictly positive numerators), then it results in a larger, unnecessary case analysis.

File: theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v (hunk 5 above)
Comment (mrhaandi) [reply theories/FRACTRAN/Deciders/Halt_REV_FRACTRAN_dec.v:259]: It is now made more precise by `fractran_reversible_shorten` and the actual decision procedure is by induction/brief case analysis.

**Comment by DmxLarchey** [comment]
Thx for considering the changes. The PR is ok for me now. I do not think I can formally approve your PR by an action in the GH interface. But I validate it. You can merge whenever you want.

**Comment by mrhaandi** [comment]
> Thx for considering the changes. The PR is ok for me now. I do not think I can formally approve your PR by an action in the GH interface. But I validate it. You can merge whenever you want.

Thank you for your insights. The GitHub review interface is somewhat unintuitive I keep forgetting whether I have to push some button, or it is on your side in "files changed"/"review changes"/"approve".
I'll just merge then.
